US07981903B2
A suspension of N,N-dimethyl-2-(6-nitro-2,3-dihydro-1 H-indol-1-yl)-2-oxoethanamine (13.6 g, 54.6 mmol), hydrazine hydrate (21.42 mL, 436 mmol), iron (III) chloride (1.768 g, 10.91 mmol), activated carbon (15 g), and methanol (100 mL) was maintained at 65° C. for 12 hours, cooled, and filtered through celite (rinsed with additional methanol). Filtrates were concentrated, redissolved in ethyl acetate, and washed twice with saturated aqueous sodium chloride and sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered, and concentrated to afford 1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine (9.6 g, 80% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.44 (d, J=1.40 Hz, 1 H), 6.83 (d, J=8.03 Hz, 1 H), 6.20 (dd, J=7.93, 2.11 Hz, 1 H), 4.94 (s, 2 H), 4.06 (t, J=8.43 Hz, 2 H), 3.14 (s, 2 H), 2.91 (t, J=8.33 Hz, 2 H), 2.25 (s, 6 H).

reactant | N,N-dimethyl-2-(6-nitro-2,3-dihydro-1 H-indol-1-yl)-2-oxoethanamine | 54.6 mmol, 13.6 g | CN(CC(=O)N1CCC2=CC=C(C=C12)[N+](=O)[O-])C | C12H15N3O3
reactant | hydrazine hydrate | 436 mmol, 21.42 mL | O.NN
catalyst | iron (III) chloride | 10.91 mmol, 1.768 g | [Fe](Cl)(Cl)Cl
solvent | methanol | 100 mL | CO | CH4O
product | 1-[(dimethylamino)acetyl]-2,3-dihydro-1H-indol-6-amine | 9.6 g, 80% yield | CN(C)CC(=O)N1CCC2=CC=C(C=C12)N | C12H17N3O
